US04206199
(2) Production of H-Ala-Gln-Asp-Phe-Val-Gln-Trp-Leu-Met-Asn-Thr-OH
In 3.0 ml of 5% thioglycolic acid-50% aqueous acetic acid was dissolved 30 mg of H-Ala-Gln-Asp-Phe-Val-Gln-Trp-Leu-Met(O)-Asn-Thr-OH and reduction was carried out at 45° C. for 24 hours. The reaction mixture was run onto a column (3.4×57 cm) of Sephadex LH-20 and elution was carried out with 50% acetic acid. The fractions from 235 ml to 280 ml were pooled and lyophilized. Yield 23 mg; Rf3 0.72(Avicel®); amino acid analysis; Trp (0.76(1); Asp 2.15(2); Thr 0.93(1); Glu 2.15(2); Ala 0.97(1); Val 1.00(1); Met 0.92(1); Leu 1.02 (1); Phe 1.02(1) (peptide content 82%)

reactant | H-Ala-Gln-Asp-Phe-Val-Gln-Trp-Leu-Met(O)-Asn-Thr-OH | 30 mg | N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCS(=O)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)O | C61H89N15O19S
solvent | thioglycolic acid | 3.0 ml | C(CS)(=O)O | C2H4O2S
product | H-Ala-Gln-Asp-Phe-Val-Gln-Trp-Leu-Met-Asn-Thr-OH | N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)O | C61H89N15O18S
